US05116862
A mixture of hex-5-ynoic acid (1 g) and thionyl chloride (1.95 ml) in benzene (25 ml) was heated under reflux for 3 hours. The resulting solution was cooled and then evaporated in vacuo. The acid halide thus obtained was taken up in ether (5 ml) and added, dropwise, to a stirred solution of 3-hydroxymethyl-3-n-propyloxetane (1.2 g) and pyridine (0.8 ml) in dry ether (20 ml.). The reaction mixture was stirred at room temperature for 16 hours. After this time the organic phase was washed with water, 5% hydrochloric acid, saturated sodium bicarbonate solution and brine before drying over anhydrous magnesium sulphate and then evaporation in vacuo. The residue was purified by chromatography on silica, pre-eluted with hexane containing 1% triethylamine. Elution with hexane/ether mixtures gave (3-propyloxetan-3-yl)methyl hex-5-ynoate (1.33 g) as a colourless oil.

reactant | 3-hydroxymethyl-3-n-propyloxetane | 1.2 g | OCC1(COC1)CCC | C7H14O2
reactant | pyridine | 0.8 ml | N1=CC=CC=C1 | C5H5N
reactant | ether | 5 ml | CCOCC | C4H10O
reactant | ether | 20 ml | CCOCC | C4H10O
product | (3-propyloxetan-3-yl)methyl hex-5-ynoate | 1.33 g | C(CCCC#C)(=O)OCC1(COC1)CCC | C13H20O3
